US04829067
A solution of 5.0 g of propiophenone oxime in 35 ml of dimethylformamide is added dropwise to a solution of 1.55 g of 62.5% sodium hydride in 80 ml of dimethylformamide under ice-colling, and the mixture is stirred at the same temperature for 20 minutes. A solution of 4.24 g of 2-chlorobenzonitrile in 20 ml of dimethylformamide is added dropwise to the mixture and the mixture is stirred at room temperature for 3 hours. The reaction mixture is poured into ice-water and the aqueous mixture is extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=6:1) to give 2.19 g of propiophenone O-(2-cyanophenyl)oxime as oil.

reactant | propiophenone oxime | 5.0 g | C(CC)(C1=CC=CC=C1)=NO | C9H11NO
reactant | sodium hydride | 1.55 g | [H-].[Na+]
reactant | 2-chlorobenzonitrile | 4.24 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | propiophenone O-(2-cyanophenyl)oxime | 2.19 g | C(#N)C1=C(C=CC=C1)ON=C(CC)C1=CC=CC=C1 | C16H14N2O
